US07683067B2
2-Oxo-N-(pyridin-2-ylmethyl)indoline-5-carboxamide
To a N,N-dimethylformamide/acetonitrile, (2 mL: 10 mL), mixture containing ethyldiisopropylamine (0.52 mL, 3 mmol) was added 2-oxoindoline-5-carboxylic acid (0.354 g, 2.0 mmol; described in: Sun L. et al. J. Med. Chem. 2000, 43(14), 2655:), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.77 g, 2.4 mmol) and 1-hydroxybenzotriazole hydrate (0.324 g, 2.4 mmol) and stirred for 5 min at room temperature. Thereafter, 2-(aminomethyl)pyridine (0.562 g, 5.2 mmol) was added and the resulting reaction mixture was stirred for 90 min followed by addition of a saturated aqueous NaHCO3 solution (10 mL). The solvents were removed in vacuo and 0.364 g (68% yield) of the title product was obtained as a white solid after purification on a silica gel column using chloroform/methanol, (9:1), as the eluent: 1H NMR (DMSO-d6, 400 MHz) δ 10.66 (s, 1H), 8.96 (t, J=5.6 Hz, 1H), 8.55 (d, J=4.4 Hz, 1H), 7.85 (d, J=8.0 Hz, 1H), 7.83 (s, 1H), 7.78 (t, J=7.6 Hz, 1H), 7.34 (d, J=8.0 Hz, 1H), 7.29 (t, J=6.4 Hz, 1H), 6.92 (d, J=8.0 Hz, 1H), 4.59 (d, J=6.0 Hz, 2H), 3.58 (s, 2H); MS (EI) m/z 268 (M++1).

reactant | ethyldiisopropylamine | 3 mmol, 0.52 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-oxoindoline-5-carboxylic acid | 2.0 mmol, 0.354 g | O=C1NC2=CC=C(C=C2C1)C(=O)O | C9H7NO3
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.4 mmol, 0.77 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 2.4 mmol, 0.324 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(aminomethyl)pyridine | 5.2 mmol, 0.562 g | NCC1=NC=CC=C1 | C6H8N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide acetonitrile | 2 mL | CN(C=O)C.C(C)#N
product | 2-Oxo-N-(pyridin-2-ylmethyl)indoline-5-carboxamide | 0.364 g, 68% yield | O=C1NC2=CC=C(C=C2C1)C(=O)NCC1=NC=CC=C1 | C15H13N3O2
